US08686032B2
Stage 1: (S)-2-Benzyloxycarbonylamino-3-tert-butoxy-propionic acid cyclopentyl ester
(S)-2-Benzyloxycarbonylamino-3-tert-butoxy-propionic acid (4 g, 0.014 mol) was dissolved in DMF (40 ml). Cyclopentanol (2.54 ml, 0.027 mol) and dimethylaminopyridine (0.165 g, 0.014 mol) were added. The solution was cooled to 0° C. using an ice bath and to it was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.73 g, 0.014 mol, 1.05 eq.). The mixture was stirred at 0° C. for 10 minutes and then allowed to warm to r.t. and stirred for a further 18 hours. To the reaction mixture was added water (20-30 ml) followed by EtOAc (40 ml). The layers were separated and the aqueous layer re-extracted with EtOAc (15 ml). The combined organic layers were washed with water (4×20 ml), dried (MgSO4) and the solvent removed in vacuo to give a residue. Purification by column chromatography (1:1 EtOAc/heptane) gave the product as a colourless oil (3.82 g, 78% yield). 1H NMR (300 MHz, CDCl3), δ: 1.15 (9H, s, CH3×3), 1.50-1.90 (8H, m, CH2×4), 3.57 (1H, dd, J=7.4, 1.2 Hz, CH), 3.85 (1H, dd, J=7.4, 1.2 Hz, CH), 4.45 (1H, m, CH), 5.15 (2H, s, CH2), 5.25 (1H, m, CH), 5.65 (1H, d, CH, J=7.6 Hz), 7.30-7.50 (5H, m, ArH×5).

reactant | (S)-2-Benzyloxycarbonylamino-3-tert-butoxy-propionic acid | 0.014 mol, 4 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)COC(C)(C)C | C15H21NO5
reactant | Cyclopentanol | 0.027 mol, 2.54 ml | C1(CCCC1)O | C5H10O
reactant | dimethylaminopyridine | 0.014 mol, 0.165 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.014 mol, 2.73 g, 1.05 eq. | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 ml | CCOC(=O)C | C4H8O2
solvent | water | 20-30 ml | O | H2O
product | (S)-2-Benzyloxycarbonylamino-3-tert-butoxy-propionic acid cyclopentyl ester | 3.82 g, 78% yield | C1(CCCC1)OC([C@H](COC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C20H29NO5
